US05521173
5-([1,1'-Biphenyl]-4-ylcarbonyl)-4,5-dihydropyrrolo[1,2-a]quinoxaline
To a mixture of 0.5 g of 4,5-dihydropyrrolo[1,2-a]quinoxaline and 0.96 g of 4-biphenylcarbonyl chloride in 50 ml of methylene chloride under argon is added 7.0 ml of triethylamine followed by stirring at room temperature for 16 hours. The reaction mixture is diluted with 50 ml of chloroform and washed with water, 2N HCl, saturated NaHCO3 and water. The organic layer is dried (Na2SO4) and columned on silica gel by elution with 7:1 to 1:1 ethyl acetate:hexane to give 0.87 g of the desired product as a solid. M+H 351.2; M+Na 373.2.

reactant | 4,5-dihydropyrrolo[1,2-a]quinoxaline | 0.5 g | C1=CC=C2N1C1=CC=CC=C1NC2 | C11H10N2
reactant | 4-biphenylcarbonyl chloride | 0.96 g | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-([1,1'-Biphenyl]-4-ylcarbonyl)-4,5-dihydropyrrolo[1,2-a]quinoxaline | 0.87 g | C1(=CC=C(C=C1)C(=O)N1CC=2N(C3=CC=CC=C13)C=CC2)C2=CC=CC=C2 | C24H18N2O
